US07253286B2
6-Carbamoyl-4-[1-(2,4-difluorophenylcarbamoyl)1H-indol-5-yloxy]-7-methoxyquinoline
After dissolving 6-carbamoyl-4-(1H-indol-5-yloxy)-7-methoxyquinoline (100 mg, 0.3 mmol) in N,N-dimethylformamide (0.5 ml), there was added sodium hydride (12 mg, 0.3 mmol) while cooling on ice and the mixture was stirred at room temperature for 15 minutes. After adding phenyl N-(2,4-difluorophenyl)carbamate (79 mg, 0.3150 mmol), the mixture was stirred at room temperature for 2 hours. Water was added to the reaction solution, extraction was performed with ethyl acetate and tetrahydrofuran, the extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and the filtrate was distilled off under reduced pressure. The obtained crystals were suspended in ethanol and diluted with hexane, and then the crystals were filtered out, washed with hexane and dried by aspiration to obtain the title compound (84 mg, 0.1718 mmol, 57.28%) as colorless crystals.

reactant | 6-carbamoyl-4-(1H-indol-5-yloxy)-7-methoxyquinoline | 0.3 mmol, 100 mg | C(N)(=O)C=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CNC2=CC1 | C19H15N3O3
reactant | sodium hydride | 0.3 mmol, 12 mg | [H-].[Na+]
reactant | phenyl N-(2,4-difluorophenyl)carbamate | 0.3150 mmol, 79 mg | FC1=C(C=CC(=C1)F)NC(OC1=CC=CC=C1)=O | C13H9F2NO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Carbamoyl-4-[1-(2,4-difluorophenylcarbamoyl)1H-indol-5-yloxy]-7-methoxyquinoline | 0.1718 mmol, 84 mg, 57.28% | C(N)(=O)C=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CN(C2=CC1)C(NC1=C(C=C(C=C1)F)F)=O | C26H18F2N4O4
